US04581370
1-Chloro-4-ethynylbenzene
Dissolve 276.5 g (0.634 mole) of bromoethyltriphenylphosphonium bromide in 1800 ml THF and cool to -78° C. Add 67.6 g (0.062 mole) potassium tert.-butoxide and stir at -78° C. for 2 hours. Add 89.12 g p-chlorobenzaldehyde in 200 ml THF to cold reaction mixture and stir for 30 minutes. Add 142.3 g potassium tert.-butoxide and then allow to warm to room temperature. After 18 hours, add 500 ml saturated aqueous ammonium chloride solution and 500 ml H2O and extract with 500 ml diethyl ether. Wash organic layer with 2×400 ml saturated aqueous sodium chloride solution, dry over magnesium sulfate, filter and evaporate solvent to dryness. Wash residue with 200 ml hexane and filter off precipitate. Evaporate hexane and dissolve material in 150 ml hexane:methylene chloride (66:33) solution and elute through column containing 300 g silica gel (Merck 60-230 mesh) with hexane:methylene chloride (66.33) solution. Monitor column chromatography using thin-layer chromatography on silica gel (hexane:methylene chloride, 66:33). Collect desired fraction and evaporate solvent. Distill residue in vacuo and collect fraction boiling at 65° C. (8.5 mmHg) to obtain the title compound.

reactant | bromoethyltriphenylphosphonium bromide | 0.634 mole, 276.5 g | [Br-].BrCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.-butoxide | 0.062 mole, 67.6 g | CC(C)([O-])C.[K+]
reactant | p-chlorobenzaldehyde | 89.12 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | potassium tert.-butoxide | 142.3 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | 1800 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | H2O | 500 ml | O | H2O
product | 1-Chloro-4-ethynylbenzene | ClC1=CC=C(C=C1)C#C | C8H5Cl
